US05969138
(7) Preparation of 1-(2-methoxyethyl)piperazine
To an aqueous solution of 68.8 g of 1-(2-methoxyethyl)piperazine dihydrochloride (water; 50 mL) was added dropwise an aqueous solution of 33.0 g of sodium hydroxide (water; 100 mL). The mixture was extracted with chloroform. The, organic layer was dried over anhydrous magnesium sulfate and evaporated to give 41.3 g of the title compound.

reactant | 1-(2-methoxyethyl)piperazine dihydrochloride | 50 mL, 68.8 g | Cl.Cl.COCCN1CCNCC1
solvent | sodium hydroxide | 100 mL, 33.0 g | [OH-].[Na+]
product | 1-(2-methoxyethyl)piperazine | 41.3 g | COCCN1CCNCC1 | C7H16N2O
